US06756504B2
9. Preparation of Sphingosylphosphorylcholine-N-Ethyl Thiourea (AD-2209)
100 mg of sphingosylphosphorylcholine were dissolved in 10 ml methanol:water, 2:1, in a 25 ml Erlenmeyer flask. To the stirred solution were added 100 mg of tertiary butyl isothiocyanate. The solution was stirred for 10 min, then 2.5 ml of 1N sodium bicarbonate were added. The solution was left to stir for 48 hours, transferred to a separatory funnel and 80 ml dichloromethane, 30 ml methanol and 40 ml water were added. The organic phase was washed with 40 ml of water, then dried over MgSO4, filtered and evaporated to dryness. The compound was purified by preparative TLC using dichloromethane:methanol:water, 65:35:5 for development. The silica spot containing the product was viewed by an ultraviolet lamp, scraped and eluted with dichloromethane: methanol:water, 1:2:1, in a small column. Yield: 80 mg; M.S. Na+=574.

reactant | sphingosylphosphorylcholine | 100 mg | CCCCCCCCCCCCC/C=C/[C@H]([C@H](COP(=O)([O-])OCC[N+](C)(C)C)N)O | C23H49N2O5P
reactant | tertiary butyl isothiocyanate | 100 mg | C(C)(C)(C)N=C=S | C5H9NS
reactant | sodium bicarbonate | 1N, 2.5 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Sphingosylphosphorylcholine N-Ethyl Thiourea | CCCCCCCCCCCCC/C=C/[C@H]([C@H](COP(=O)([O-])OCC[N+](C)(C)C)N)O.C(C)NC(=S)N | InChI=1S/C23H49N2O5P.C3H8N2S/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-23(26)22(24)21-30-31(27,28)29-20-19-25(2,3)4;1-2-5-3(4)6/h17-18,22-23,26H,5-16,19-21,24H2,1-4H3;2H2,1H3,(H3,4,5,6)/b18-17+;/t22-,23+;/m0./s1
